US09056859B2
A solution of 1,3-difluoro-2-nitrobenzen (5.0 g, 31.4 mmol) in 50 mL of dry DMF was added K2CO3 (4.41 g, 32 mmol) and diethyl malonate (3.6 mL, 31.4 mmol). The reaction mixture was heated to 65° C. and stirred for 24 hours. After cooling to room temperature, the mixture was neutralized with 2 N HCl and extrated with diethyl ether. The ether layer was dried over anhydrous sodium sulfate and concentrated. The crude product was purified via column chromatograph to afford diethyl (3-fluoro-2-nitrophenyl)propanedioate. 1H-NMR (400 MHz, CDCl3) δ 7.50˜7.55 (m, 1H), 7.38˜7.40 (rn, 1H), 7.23˜7.28 (m, 1H), 4.82 (s, 1H), 3.77 (s, 6H).

reactant | 1,3-difluoro-2-nitrobenzen | 31.4 mmol, 5.0 g | FC1=C(C(=CC=C1)F)[N+](=O)[O-] | C6H3F2NO2
reactant | K2CO3 | 32 mmol, 4.41 g | C(=O)([O-])[O-].[K+].[K+]
reactant | diethyl malonate | 31.4 mmol, 3.6 mL | C(CC(=O)OCC)(=O)OCC | C7H12O4
reactant | HCl | 2 N | Cl | ClH
solvent | DMF | 50 mL | CN(C)C=O | C3H7NO
solvent | diethyl ether | C(C)OCC | C4H10O
product | diethyl (3-fluoro-2-nitrophenyl)propanedioate | FC=1C(=C(C=CC1)C(C(=O)OCC)C(=O)OCC)[N+](=O)[O-] | C13H14FNO6
